US03970664
A mixture of 2.9 g. of 7-bromo-2-hydrazino-5-(2-pyridyl)-3H-1,4-benzodiazepine, 50 ml. of ethanol, 2 ml. of triethylorthoacetate and 0.2 g. of p-toluenesulfonic acid was refluxed for 20 minutes. The solvent was evaporated under reduced pressure and the residue was partitioned between methylene chloride and aqueous sodium carbonate solution. The organic phase was dried and evaporated. Crystallization from methylene chloride/hexane yielded 8-bromo-1-methyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine, having a melting point of 245°-248°. Chromatography of the mother liquor on 60 g. of silica gel using 10 percent ethanol in methylene chloride afforded additional product, m.p. 248°-250°.

reactant | 7-bromo-2-hydrazino-5-(2-pyridyl)-3H-1,4-benzodiazepine | BrC=1C=CC2=C(C(=NCC(=N2)NN)C2=NC=CC=C2)C1 | C14H12BrN5
reactant | triethylorthoacetate | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 8-bromo-1-methyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=NC=CC=C3)C1 | C16H12BrN5
